US09340513B2
To a solution of DMAP (415 mg, 3.40 mmol), EDC (652 mg, 3.40 mmol) and 4-tert-butoxy-3,3-dimethyl-4-oxobutanoic acid (425 mg, 2.039 mmol) in DCM (10 mL) stirred at 20° C. for 30 min was added (E)-N-(1-(4-chlorophenyl)cyclopropyl)-3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)-2-methylacrylamide (650 mg, 0.680 mmol). The reaction mixture was stirred at 20° C. for 2 h. The mixture was washed with saturated ammonium chloride, water, and saturated NaHCO3, water and brine. The organic layer was dried over Na2SO4, filtered and concentrated to give the crude product, which was purified by silica gel column eluting with petroleum ether/Ethyl acetate (3:1) to afford 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(4-chlorophenyl)cyclopropyl)amino)-2-methyl-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (300 mg, 52%) as a light yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ=7.30-7.22 (m, 2H), 7.22-7.14 (m, 2H), 6.59 (s, 1H), 6.32 (s, 1H), 4.51 (dd, J=5.4, 10.9 Hz, 1H), 3.28-3.10 (m, 1H), 2.72 (d, J=10.3 Hz, 1H), 2.55 (s, 3H), 2.41-2.21 (m, 2H), 2.12-0.71 (m, 61H).

reactant | EDC | 3.40 mmol, 652 mg
reactant | 4-tert-butoxy-3,3-dimethyl-4-oxobutanoic acid | 2.039 mmol, 425 mg | C(C)(C)(C)OC(C(CC(=O)O)(C)C)=O | C10H18O4
reactant | (E)-N-(1-(4-chlorophenyl)cyclopropyl)-3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)-2-methylacrylamide | 0.680 mmol, 650 mg | ClC1=CC=C(C=C1)C1(CC1)NC(\C(=C\[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)O)C)=C(C(C2)=O)C(C)C)\C)=O | C42H58ClNO3
catalyst | DMAP | 3.40 mmol, 415 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(4-chlorophenyl)cyclopropyl)amino)-2-methyl-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 300 mg, 52% | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C(\C(=O)NC5(CC5)C5=CC=C(C=C5)Cl)/C)C)C)(C)C)C | C52H74ClNO6
